US08754079B2
XVIII.1 (R,R)-4-Fluoro-2-(2-Methoxycyclohexyloxy)-nitrobenzene
To (R,R)-4-fluoro-2-(2-hydroxycyclohexyloxy)-nitrobenzene (0.200 g) dissolved in methylene chloride (10.0 ml) was added trimethyloxonium tetrafluoroborate (0.348 g). The mixture was stirred overnight at rt. Water was added; the organic phase was separated and evaporated to dryness to yield a brownish oil.

reactant | (R,R)-4-fluoro-2-(2-hydroxycyclohexyloxy)-nitrobenzene | 0.200 g | FC1=CC(=C(C=C1)[N+](=O)[O-])O[C@H]1[C@@H](CCCC1)O | C12H14FNO4
reactant | trimethyloxonium tetrafluoroborate | 0.348 g | F[B-](F)(F)F.C[O+](C)C
reactant | Water | O | H2O
solvent | methylene chloride | 10.0 ml | C(Cl)Cl | CH2Cl2
product | (R,R)-4-Fluoro-2-(2-Methoxycyclohexyloxy)-nitrobenzene | FC1=CC(=C(C=C1)[N+](=O)[O-])O[C@H]1[C@@H](CCCC1)OC | C13H16FNO4
